US07414076B2
Preparation of 3-[4-(4-bromophenyl)4-hydroxypiperidin-1-yl]-1-propanesulfonic acid (Compound G)
To a solution of 4-(4-bromophenyl)-4-piperidinol (2.51 g, 9.8 mmol) in MeOH (25 mL) was added 1,3-propane sultone (1.28 g, 10.7 mmol). The mixture was stirred at reflux for 2 h. Only a small amount of compound precipitated. The resulting suspension was cooled to room temperature with stirring and a solution of 50% MeOH/Acetone was added to precipitate a maximum of compound. The solid was collected by filtration, washed with 50% MeOH/Acetone (2×25 mL) and dried in vacuo. This allowed the isolation of compound G, 2.11 g (57%).

reactant | 4-(4-bromophenyl)-4-piperidinol | 9.8 mmol, 2.51 g | BrC1=CC=C(C=C1)C1(CCNCC1)O | C11H14BrNO
reactant | 1,3-propane sultone | 10.7 mmol, 1.28 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | MeOH | 25 mL | CO | CH4O
product | 3-[4-(4-bromophenyl)4-hydroxypiperidin-1-yl]-1-propanesulfonic acid | BrC1=CC=C(C=C1)C1(CCN(CC1)CCCS(=O)(=O)O)O | C14H20BrNO4S
